US07338960B2
2-(Trimethylsilyl)ethyl 4-(4-hydroxyphenyl)butanoate
To a stirred solution of 2-(trimethylsilyl) ethanol (0.56 mL, 3.91 mmol) in THF (1 mL) at rt under nitrogen, was added 4-DMAP (113 mg, 0.92 mmol) followed by EDC (177 mg, 0.92 mmol). After about 1 minute Et3N (170 μL, 1.22 mmol) was added, drop-wise followed by 4-(4-hydroxyphenyl)butanoic acid (150 mg, 0.83 mmol) in THF (4 mL) and the mixture stirred at rt for 18 hours. The mixture was then partitioned between Et2O (25 mL) and aqueous HCl (2M, 30 mL) and the layers separated. The aqueous layer was re-extracted with Et2O (20 mL) and the combined organic layer washed with brine (50 mL), dried (MgSO4) and concentrated under vacuum to give a ‘chalk-white’ milky oil. Purification by SPE (silica, 5 g Cartridge) eluting with cyclohexane:EtOAc (gradient 25:1 to 1:2) afforded the title compound (55 mg).

reactant | 2-(trimethylsilyl) ethanol | 3.91 mmol, 0.56 mL | C[Si](CCO)(C)C | C5H14OSi
reactant | EDC | 0.92 mmol, 177 mg
reactant | Et3N | 1.22 mmol, 170 μL | CCN(CC)CC | C6H15N
reactant | 4-(4-hydroxyphenyl)butanoic acid | 0.83 mmol, 150 mg | OC1=CC=C(C=C1)CCCC(=O)O | C10H12O3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | 4-DMAP | 0.92 mmol, 113 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-(Trimethylsilyl)ethyl 4-(4-hydroxyphenyl)butanoate | 55 mg | OC1=CC=C(C=C1)CCCC(=O)OCC[Si](C)(C)C | C15H24O3Si
